US05852016
N-(2,3-Dimethoxy-6,7-dimethylquinoxalin-5-yl)-methanesulphonamide
A mixture of 5-amino-2,3-dimethoxy-6,7-dimethylquinoxaline (from Preparation 2) (50 mg, 0.214 mmol), methanesulphonic anhydride (187 mg, 1.07 mmol) and pyridine (87 ml, 1.07 mmol) in dry tetrahydrofuran (1 ml) was stirred at 20° C. for 2.7 hours. Water (0.3 ml) was added, and the mixture was stirred for 40 minutes. The mixture was partitioned between ethyl acetate (15 ml) and 2M hydrochloric acid (5 ml). The organic solution was washed with saturated aqueous sodium bicarbonate (5 ml), dried (MgSO4), and concentrated under reduced pressure to give the title compound (63 mg, 94%) as a white solid, m.p. 219° C.

reactant | 5-amino-2,3-dimethoxy-6,7-dimethylquinoxaline | 0.214 mmol, 50 mg | NC1=C2N=C(C(=NC2=CC(=C1C)C)OC)OC | C12H15N3O2
reactant | methanesulphonic anhydride | 1.07 mmol, 187 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | pyridine | 1.07 mmol, 87 ml | N1=CC=CC=C1 | C5H5N
reactant | Water | 0.3 ml | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | N-(2,3-Dimethoxy-6,7-dimethylquinoxalin-5-yl)-methanesulphonamide | 63 mg, 94% | COC1=NC2=CC(=C(C(=C2N=C1OC)NS(=O)(=O)C)C)C | C13H17N3O4S
